US08222248B2
A freshly prepared solution of 3,4-diamino-N-(3,4-dimethyl-phenyl)-benzenesulfonamide in DMSO (0.2 M, 0.40 mL) was placed in a vial. To it was added 2,6-dichloro-benzaldehyde (0.2 M in toluene, 0.48 mL), followed by FeCl3 (0.02 M in THF, 0.2 mL). The mixture was stirred in open air at ambient temperature overnight. The mixture was then diluted by MeOH and the whole was loaded onto a solid phase extraction (SPE) cartridge that contained strong cation exchange (SCX) (1 g media in 6 mL cartridge, United Chemical Technology). Wash-to-waste (5 mL MeOH) was followed by elute-to-collect (5 mL 20:2:1 ethyl acetate-MeOH-Et3N) and, after evaporation of volatiles, the crude was further purified by silica gel column chromatography to give 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-sulfonic acid (3,4-dimethyl-phenyl)-amide: MS (m/z) 446 (M+1).

reactant | 3,4-diamino-N-(3,4-dimethyl-phenyl)-benzenesulfonamide | NC=1C=C(C=CC1N)S(=O)(=O)NC1=CC(=C(C=C1)C)C | C14H17N3O2S
reactant | 2,6-dichloro-benzaldehyde | 0.2 M, 0.48 mL | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | MeOH | CO | CH4O
solvent | DMSO | 0.2 M, 0.40 mL | CS(=O)C | C2H6OS
product | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-sulfonic acid (3,4-dimethyl-phenyl)-amide | CC=1C=C(C=CC1C)NS(=O)(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C=C1 | C21H17Cl2N3O2S
